US08685969B2
A solution of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.5025 g, 0.931 mmol), ammonium chloride (0.199 g, 3.73 mmol), BOP (0.535 g, 1.211 mmol), DIPEA (0.781 ml, 4.47 mmol) and N-methylmorpholine (0.399 ml, 3.63 mmol) in DMF (Volume: 4.66 ml) was stirred under nitrogen for 2.5 h. Water (50 mL) was added, and the solution was stirred for 1 h. The precipitate was filtered, rinsed with water and dried over Drierite to give benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.4856 g, 0.902 mmol, 97% yield) as a tan solid, LC/MS (M+H)=539.24.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.931 mmol, 0.5025 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)O)C)C | C31H29N3O6
reactant | ammonium chloride | 3.73 mmol, 0.199 g | [Cl-].[NH4+]
reactant | BOP | 1.211 mmol, 0.535 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 4.47 mmol, 0.781 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 3.63 mmol, 0.399 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 4.66 ml | CN(C)C=O | C3H7NO
solvent | Water | 50 mL | O | H2O
product | benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.902 mmol, 0.4856 g, 97% yield | C(N)(=O)C1=NC(=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C)C | C31H30N4O5
